US04168379
4-Benzyl-6-ethyl-1,3-dihydro-furo[3,4-c]pyridin-7-ol
9.4 g (50 millimoles) of 2-benzyl-4-ethyloxazole and 29.6 g. (200 millimoles) of 3-methylsulfonyl-2,5-dihydrofuran are heated for 15 hours at 150°. Unconverted sulfone is distilled off in a high vacuum. The residue is digested in methylene chloride, the undissolved constituent is filtered off, and the filtrate is extracted with 150 ml of 10% strength sodium hydroxide solution. The alkaline solution is neutralized and extracted with methylene chloride. On concentrating the methylene chloride solution, 6.2 g of 4-benzyl-6-ethyl-1,3-dihydro-furo[3,4-c]pyridine-7-ol remain. Melting point, after recrystallization from nitromethane: 148° C.

reactant | 2-benzyl-4-ethyloxazole | 50 millimoles, 9.4 g | C(C1=CC=CC=C1)C=1OC=C(N1)CC | C12H13NO
reactant | 3-methylsulfonyl-2,5-dihydrofuran | 200 millimoles | CS(=O)(=O)C=1COCC1 | C5H8O3S
product | 4-Benzyl-6-ethyl-1,3-dihydro-furo[3,4-c]pyridin-7-ol | C(C1=CC=CC=C1)C1=NC(=C(C2=C1COC2)O)CC | C16H17NO2
